US07888364B2
1 g of 4-fluorobenzonitrile was used in Procedure Q with 1-propanethiol to afford 4-(propylthio)benzonitrile. 860 mg of 4-(propylthio)benzonitrile was reacted via Procedure T to give 4-(propylthio)benzoic acid. 700 mg of 4-(propylthio)benzoic acid was reacted via Procedure R to give 4-(propylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(propylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(propylsulfonyl)benzamide. MS (Q1) 415.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 60 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(propylsulfonyl)benzoic acid | C(CC)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C10H12O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(propylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)CCC)=O)C1=NC=CC=C1 | C21H19ClN2O3S
